US07348438B2
1-(5-Chloro-6-methyl-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanone
1-(5-Chloro-6-methyl-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanol (0.33 g; 1.2 mmole), 4-methoxy-2,2,6,6-tetramethyl-1-piperdinyloxy free radical (4-methoxy-TEMPO free radical; 5.6 mg; 0.03 mmoles) and potassium bromide (KBr; 22 mg, 0.18 mmoles) were dissolved in THF (3.5 mL). The reaction mixture was stirred while cooled to −10° C., after 10 min. a sodium hypochlorite solution (bleach; 10-13% aqueous; 3.0 mL; 5.0 mmoles) was added and the reaction mixture was allowed to stir for 15 min., then warmed to room temperature and stirred for 15 min. The reaction mixture was diluted with water (20 mL) and ethyl acetate (30 mL), the layers were separated and the aqueous layer was extracted with ethyl acetate (3×30 mL). The extracts were combined and washed with water (30 mL) and brine (40 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo and then purified by column chromatography (SiO2; 100% diethyl ether) to yield the title compound as a white solid.

reactant | 1-(5-Chloro-6-methyl-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanol | 1.2 mmole, 0.33 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)O)C=C1C | C10H8ClF3N2O
reactant | 4-methoxy-TEMPO | CC1(CC(CC(N1[O-])(C)C)OC)C
reactant | potassium bromide | 0.18 mmoles, 22 mg | [Br-].[K+]
reactant | sodium hypochlorite | 5.0 mmoles, 3.0 mL | Cl[O-].[Na+]
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-Chloro-6-methyl-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanone | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1C | C10H6ClF3N2O
